US05202351
Into 5 ml of dimethylsulfoxide, was added 0.26 g (1.6 mmol) of 2,3-methylenedioxyphenylacetonitrile, then, 0.24 g (1.6 mmol) of n-pentyl bromide and a 50% aqueous solution of sodium hydroxide were added dropwise thereinto simultaneously under cooling with ice. After 30-minute stirring at room temperature, the mixutre was added with water and extracted with ether. The ether extract was dried over magnesium chloride and then the solvent was evaporated off to obtain 0.30 g of oily 1-(2,3-methylenedioxyphenyl)hexane carbonitrile.

reactant | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
reactant | 2,3-methylenedioxyphenylacetonitrile | 1.6 mmol, 0.26 g | C1OC2=C(C=CC=C2O1)CC#N | C9H7NO2
reactant | n-pentyl bromide | 1.6 mmol, 0.24 g | C(CCCC)Br | C5H11Br
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-(2,3-methylenedioxyphenyl)hexane carbonitrile | 0.30 g | C1OC2=C(C=CC=C2O1)C(CCCCC)C#N | C14H17NO2
